US05756510
3-[5-(6-Chloropurin-9-yl)pentyloxy]benzamide (Compound NU1023)
A solution of 3-(bromopentyloxy)benzamide (500 mg, 1.7 mmols), 6-chloropurine (270 mg, 1.7 mmols) and potassium carbonate (240 mg, 1.7 mmols) in DMF (7.5 ml) was stirred for two days at room temperature. The solvent was then removed under vacuum (0.001 mmHg) and the white solid (mixture of N7 and N9 isomers) was chromatographed (silica, 10% MeOH/CH2CI2) to give a single product (N9 isomer) as a glass. This was triturated with ether (=5 ml) to give a white solid which was recrystallised from ethyl acetate to give the product (120 mg, 0.33 mmols, 20% yield)

reactant | 3-(bromopentyloxy)benzamide | 1.7 mmols, 500 mg | BrCCCCCOC=1C=C(C(=O)N)C=CC1 | C12H16BrNO2
reactant | 6-chloropurine | 1.7 mmols, 270 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | potassium carbonate | 1.7 mmols, 240 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 3-[5-(6-Chloropurin-9-yl)pentyloxy]benzamide | 0.33 mmols, 120 mg, 20% yield | ClC1=C2N=CN(C2=NC=N1)CCCCCOC=1C=C(C(=O)N)C=CC1 | C17H18ClN5O2
